US08278442B2
Preparation 77: 5,6-Difluoroindan-1,2-dione 2-oxime
To a solution of 5,6-difluoroindan-1-one (Preparation 76) (3.1 g, 18.4 mmol) in MeOH at 40° C. was added isoamylnitrite (3.22 mL, 23.9 mmol) followed by conc. HCl (1.8 mL). The reaction was stirred at 40° C. for 45 min, cooled to rt and poured into water (50 mL). The precipitate was collected by filtration and air-dried to give the title compound: δH(DMSO-d6) 3.77 (2H, s), 7.72-7.85 (2H, m), 12.79 (1H, s).

reactant | 5,6-difluoroindan-1-one | 18.4 mmol, 3.1 g | FC=1C=C2CCC(C2=CC1F)=O | C9H6F2O
reactant | isoamylnitrite | 23.9 mmol, 3.22 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | HCl | 1.8 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | MeOH | CO | CH4O
product | 5,6-Difluoroindan-1,2-dione 2-oxime | FC=1C=C2CC(C(C2=CC1F)=O)=NO | C9H5F2NO2
